US09359375B2
A solution of (R)-2-(tert-butoxycarbonylamino)-3-(4-(pyridin-4-yl)phenyl)propanoic acid (141 mg, 0.412 mmol), HOBt monohydrate (100 mg, 0.653 mmol) and EDC (120 mg, 0.625 mmol) in DMF (2 mL) was stirred at room temperature for 45 min, conc. NH4OH (0.300 mL, ca. 4.20 mmol) was added. The mixture was stirred for 18 h. Water and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (R)-tert-butyl 1-amino-1-oxo-3-(4-(pyridin-4-yl)phenyl)propan-2-ylcarbamate (87 mg).

reactant | (R)-2-(tert-butoxycarbonylamino)-3-(4-(pyridin-4-yl)phenyl)propanoic acid | 0.412 mmol, 141 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=NC=C1 | C19H22N2O4
reactant | HOBt monohydrate | 0.653 mmol, 100 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 0.625 mmol, 120 mg
reactant | NH4OH | ca. 4.20 mmol, 0.300 mL | [NH4+].[OH-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | (R)-tert-butyl 1-amino-1-oxo-3-(4-(pyridin-4-yl)phenyl)propan-2-ylcarbamate | 87 mg | NC([C@@H](CC1=CC=C(C=C1)C1=CC=NC=C1)NC(OC(C)(C)C)=O)=O | C19H23N3O3
